US07169333B2
Perfluorobutanesulfonic acid tetrahexylammonium salt is prepared by neutralising perfluorobutanesulfonic acid and tetrahexylammonium hydroxide in aqueous solution. Tetrahexylammonium hydroxide is obtainable from Fluka.

reactant | perfluorobutanesulfonic acid | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
reactant | tetrahexylammonium hydroxide | [OH-].C(CCCCC)[N+](CCCCCC)(CCCCCC)CCCCCC
product | Perfluorobutanesulfonic acid tetrahexylammonium salt | C(CCCCC)[N+](CCCCCC)(CCCCCC)CCCCCC.FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F | InChI=1S/C24H52N.C4HF9O3S/c1-5-9-13-17-21-25(22-18-14-10-6-2,23-19-15-11-7-3)24-20-16-12-8-4;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h5-24H2,1-4H3;(H,14,15,16)/q+1;/p-1
